US06165941
3-Chloro-2-(3-amino-4-hydroxyphenyl)-5-trifluoromethylpyridine
6.2 g (110 mmol) of iron powder were heated to reflux temperature in a mixture of 66 ml of methanol and 33 ml of glacial acetic acid and treated in portions with a total of 11.7 g (36.7 mmol) of 3-chloro-2-(4-hydroxy-3-nitrophenyl)-5-trifluoromethylpyridine. After addition was complete. The mixture was heated for a further 2 hours at reflux temperature, allowed to cool and diluted with 130 ml of ethyl acetate. The solid components were separted off, washed with ethyl acetate and discarded. The filtrate was treated with water so that two phases were formed. The aqueous phase was separated off and extracted twice with ethyl acetate. The combined organic phases were washed with water, dried over sodium sulfate and filtered through silica gel. Yield: 7.8 g (74%) of a dark oil.

reactant | 3-chloro-2-(4-hydroxy-3-nitrophenyl)-5-trifluoromethylpyridine | 36.7 mmol, 11.7 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C12H6ClF3N2O3
solvent | methanol | 66 ml | CO | CH4O
solvent | acetic acid | 33 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 130 ml | C(C)(=O)OCC | C4H8O2
catalyst | iron | 110 mmol, 6.2 g | [Fe] | Fe
product | 3-Chloro-2-(3-amino-4-hydroxyphenyl)-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)O)N | C12H8ClF3N2O
